US07365088B2
1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-3-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indazole-5-carboxylic acid methyl ester
To a solution of 4 g 3-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indazole-5-carboxylic acid methyl ester in 35 mL DMF, 3.8 g Cs2CO3 and 2.9 g 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added at RT and the reaction mixture was stirred for 2 d. After addition of 50 mL water the mixture was extracted with ethyl acetate (3×150 mL), the combined organic layers were dried over MgSO4 and filtered. The solvents were removed under reduced pressure and the residue was recrystallized from diisopropylether. Yield: 3.8 g MS (ES+): m/e=513, chloro pattern.

reactant | 3-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indazole-5-carboxylic acid methyl ester | 4 g | COC(=O)C=1C=C2C(=NNC2=CC1)C(NC1CCN(CC1)C(C)C)=O | C18H24N4O3
reactant | Cs2CO3 | 3.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 2.9 g | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | water | 50 mL | O | H2O
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-3-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indazole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NN(C2=CC1)CC(NC1=NC=C(C=C1)Cl)=O)C(NC1CCN(CC1)C(C)C)=O | C25H29ClN6O4
